US08871797B2
4-Chloro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole (2.27 g, 8.5 mmol) was dissolved in dry EtOH (150 mL) and heated to 75° C. The heated solution was then treated with Sn(II) chloride dihydrate (9.6 g, 42.5 mmol) and stirred at 75° C. After three hours, the reaction was found to be complete by TLC and LCMS. The solvent was removed under reduced pressure. The residue was subsequently diluted with EtOAc (100 mL) and 1N NaOH, neutralizing the reaction to a pH of approximately 6 or 7. The mix was then filtered through celite. The organic layer was separated, and the aqueous layer was extracted with EtOAc (2×50 mL). The organic layers were combined, dried over Na2SO4, filtered, and the solvent removed under reduced pressure. The residue was then purified by flash chromatography (Biotage, SiO2, Hexanes/EtOAc gradient elution) to afford 1.73 g (86%) of 3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine as a light brown solid. LCMS m/z (%) 240 (M+H37Cl, 37), 238 (M+H35Cl, 100). 1H NMR (400 MHz, CDCl3) δ: 7.48 (s, 1H), 6.87 (d, J=8, 1H), 6.81 (dd, j=8, J=4, 1H), 6.63 (d, J=4, 1H), 3.72 (s, 3H), 3.70 (s, 3H).

reactant | 4-Chloro-5-(2-methoxy-5-nitro-phenyl)-1-methyl-1H-pyrazole | 8.5 mmol, 2.27 g | ClC=1C=NN(C1C1=C(C=CC(=C1)[N+](=O)[O-])OC)C | C11H10ClN3O3
solvent | EtOH | 150 mL | CCO | C2H6O
product | 3-(4-chloro-2-methyl-2H-pyrazol-3-yl)-4-methoxy-phenylamine | 1.73 g, 86% | ClC1=C(N(N=C1)C)C=1C=C(C=CC1OC)N | C11H12ClN3O
